US04520134
Two g of p-ethylaminophenol (0.0146 moles) were dissolved in 50 ml DMF. To this was added 2.98 g of acetic anhydride (0.0292 moles). The mixture was heated at 60° for three hours and then poured over crushed ice. Sodium carbonate was added until a pH of approximately 10 was achieved. The solution and precipitated oil were extracted with chloroform, dried over anhydrous magnesium sulfate, and then evaporated to dryness leaving a residual oil. To this oil was added 5% sodium hydroxide, and the mixture was heated at 60° for one hour. The solution was cooled and then extracted with chloroform. The remaining aqueous phase was acidified with dilute HCl to achieve a pH of approximately 4, and then extracted with chloroform. The liquid was dried over anhydrous magnesium sulfate, and then evaporated to dryness. The residual brown solid material was recrystallized from an ethanol-water mixture to yield N-ethyl-4'-hydroxyacetanilide (melting point 183°-185° C.).

reactant | p-ethylaminophenol | 0.0146 moles | C(C)NC1=CC=C(C=C1)O | C8H11NO
reactant | acetic anhydride | 0.0292 moles, 2.98 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-ethyl-4'-hydroxyacetanilide | C(C)N(C1=CC=C(C=C1)O)C(C)=O | C10H13NO2
